US07524486B2
A four-necks-flask equipped with a stirrer, a temperature gage, a dehydrating pipe and a dropping funnel was charged with 327.6 g of 3-octadecyloxypropylamine obtained in the same manner as in Example 21, 900 g of methanol and 3.9 g of a methanol solution of 28% sodium methylate as a catalyst. 113.9 g of methyl chloroacetate was added to the mixture in one hour while the mixture was kept at 15 to 25° C. and the resulting mixture was reacted for 30 hours. After the reaction was completed, the precipitated crystal was filtered. The crystal was washed with 300 g of methanol and then dried to obtain 371.8 g of 2-chloro-N-(3-octadecyloxypropyl)-acetamide as a white powder.

reactant | 3-octadecyloxypropylamine | 327.6 g | C(CCCCCCCCCCCCCCCCC)OCCCN | C21H45NO
reactant | methyl chloroacetate | 113.9 g | ClCC(=O)OC | C3H5ClO2
catalyst | methanol | 900 g | CO | CH4O
catalyst | methanol | 3.9 g | CO | CH4O
catalyst | sodium methylate | C[O-].[Na+]
product | 2-chloro-N-(3-octadecyloxypropyl)-acetamide | 371.8 g | ClCC(=O)NCCCOCCCCCCCCCCCCCCCCCC | C23H46ClNO2
